US07241791B2
Step 2: 4-[1-cyclohexyl-7-(trifluoromethyl)-1H-indazol-3-yl]phenol
Prepared according to Method C step B from 1-cyclohexyl-3-(4-methoxyphenyl)-7-trifluoromethyl-1H-indazole (0.5 mmol), boron tribromide (0.188 mL, 2.0 mmol) and 0.2 mL of cyclohexene to give the product (0.028 g) as a tan solid.

reactant | 1-cyclohexyl-3-(4-methoxyphenyl)-7-trifluoromethyl-1H-indazole | 0.5 mmol | C1(CCCCC1)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=CC=C(C=C1)OC | C21H21F3N2O
reactant | boron tribromide | 2.0 mmol, 0.188 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.2 mL | C1=CCCCC1 | C6H10
product | 4-[1-cyclohexyl-7-(trifluoromethyl)-1H-indazol-3-yl]phenol | 0.028 g | C1(CCCCC1)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=CC=C(C=C1)O | C20H19F3N2O
